US05565472
Triethylamine (0.7 ml, 5 mmol) was added dropwise with stirring at room temperature to a solution of 6-chloro-4-(2-chlorophenyl)-1,2-dihydro-1-methyl-2-oxoquinoline-3-carboxylic acid (1.75 g, 5 mmol) and diphenylphosphoryl azide (1.19 ml, 5.5 mmol) in 35 ml benzene. The mixture was stirred at room temperature for 15 minutes and then refluxed for 30 minutes to yield a solution of 6-chloro-4-(2-chlorophenyl)-1,2-dihydro-3-isocyanato-1-methyl-2-oxoquinoline. 4-Nitrobenzyl alcohol (2.31 g, 15.1mmol) and dibutyltin oxide (35 mg) were added to the cooled reaction mixture which was then refluxed for 4 h. The reaction solution was cooled to room temperature, washed with water, dried (sodium sulfate) and concentrated in vacuo. The solid residue was purified by column chromatography on silica gel (650 g), eluting with 3:2 hexane/ethyl acetate to yield the title compound as an off-white solid (1.9 g, 76% yield).

reactant | Triethylamine | 5 mmol, 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | 6-chloro-4-(2-chlorophenyl)-1,2-dihydro-1-methyl-2-oxoquinoline-3-carboxylic acid | 5 mmol, 1.75 g | ClC=1C=C2C(=C(C(N(C2=CC1)C)=O)C(=O)O)C1=C(C=CC=C1)Cl | C17H11Cl2NO3
reactant | diphenylphosphoryl azide | 5.5 mmol, 1.19 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | benzene | 35 ml | C1=CC=CC=C1 | C6H6
product | 6-chloro-4-(2-chlorophenyl)-1,2-dihydro-3-isocyanato-1-methyl-2-oxoquinoline | ClC=1C=C2C(=C(C(N(C2=CC1)C)=O)N=C=O)C1=C(C=CC=C1)Cl | C17H10Cl2N2O2
